US07622583B2
N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxvmethyl-3-trifluoromethyl-benzenesulfonamide
To a stirred solution of N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.22 mmol) and K2CO3 (91 mg, 0.66 mmol) in THF (5 mL) was added chloromethyl methyl ether (0.054 mL, 0.66 mmol) at room temperature. The resulting mixture was stirred for 3 h at room temperature then filtered. The filter cake was washed with THF and the combined filtrate was concentrated under reduced pressure. The resulting residue was purified by flash column chromatography to provide desired product. Mass spectrum m/z: 494.9 (M+H).

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-chloro-3-trifluoromethyl-benzenesulfonamide | 0.22 mmol, 100 mg | BrC1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C12H6BrCl2F3N2O2S
reactant | K2CO3 | 0.66 mmol, 91 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | chloromethyl methyl ether | 0.66 mmol, 0.054 mL | COCCl | C2H5ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxvmethyl-3-trifluoromethyl-benzenesulfonamide | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
